US07122580B2
The title compound was the prepared from (2S)-(5-bromo-2-heptyloxy-benzoylamino)-3-(2′-hydroxy-biphenyl-4-yl)-propionic acid methyl ester (0.080 g, 0.140 mmol) and 4-trifluoromethylphenylboronic acid (0.050 g, 0.281 mmol) as per general procedure G to give (2S)-(5-bromo-2-heptyloxy-benzoylamino)-3-[2′-(4-trifluoromethyl-phenoxy)-biphenyl-4-yl]-propionic acid methyl ester which was further hydrolyzed as per general procedure C to give the title compound (0.020 g, 30% yield).

reactant | (2S)-(5-bromo-2-heptyloxy-benzoylamino)-3-(2′-hydroxy-biphenyl-4-yl)-propionic acid methyl ester | 0.140 mmol, 0.080 g | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)O)NC(C1=C(C=CC(=C1)Br)OCCCCCCC)=O)=O | C30H34BrNO5
reactant | 4-trifluoromethylphenylboronic acid | 0.281 mmol, 0.050 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | (2S)-(5-bromo-2-heptyloxy-benzoylamino)-3-[2′-(4-trifluoromethyl-phenoxy)-biphenyl-4-yl]-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)OC1=CC=C(C=C1)C(F)(F)F)NC(C1=C(C=CC(=C1)Br)OCCCCCCC)=O)=O | C37H37BrF3NO5
